US07189741B2
C. 3-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid
A solution containing 1.2 g (52 mmol) of 3-bromomethyl-benzoic acid methyl ester in 10 mL of anhydrous dichloromethane was added dropwise over a solution of 1.5 g (5 mmol) 3-piperidin-4-yl-1-pyridin-3-ylmethyl-1H-indole and 0.8 mL (55 mmol) of triethylamine in 35 of anhydrous dichloromethane. After stirring at room temperature for 5 hours, the crude mixture was washed with water, saturated solution of sodium hydrogencarbonate and water. The organic phase was dried and the solvent was removed under reduced pressure. The crude mixture was purified by flash chromatography over silica gel affording 0.95 g (43% of yield) of 3-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester. This ester was dissolved in 15 mL of methanol and hydrolised with NaOH 1N at room temperature for 12 hours. The crude mixture was neutralised with HCl 1N and then the solvent was removed under reduced pressure. The solid residue was washed with water and dichloromethane and the corresponding acid (0.6 g, 77% of yield) was isolated by filtration.

reactant | 3-bromomethyl-benzoic acid methyl ester | 52 mmol, 1.2 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | 3-piperidin-4-yl-1-pyridin-3-ylmethyl-1H-indole | 5 mmol, 1.5 g | N1CCC(CC1)C1=CN(C2=CC=CC=C12)CC=1C=NC=CC1 | C19H21N3
reactant | triethylamine | 55 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid | N1=CC(=CC=C1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C27H27N3O2
